US06251926B1
A mixture of methyl 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylacetate (23.2 g), lithium hydroxide monohydrate (4.33 g), tetrahydrofuran (100 ml), water (60 ml) and methanol (40 ml) was stirred at room temperature for 1 hour. 1N hydrochloric acid (103 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from acetone to obtain 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylacetic acid (21.9 g, yield 98%). m.p. 181-183° C.

reactant | methyl 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylacetate | 23.2 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CC(=O)OC | C20H19NO4
reactant | lithium hydroxide monohydrate | 4.33 g | O.[OH-].[Li+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 103 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylacetic acid | 21.9 g, yield 98% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CC(=O)O | C19H17NO4
